US07601716B2
7-[6-(4-Methylpiperazin-1-yl)pyridin-3-yl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine
7-Iodo-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine (704 mg) was reacted with 1-methyl-4-[5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)pyridin-2-yl]piperazine as in General Procedure 4A to give the title compound as a yellow solid (20% yield). M.p. 225° C. (dec), LCMS: m/z=311.13 (M+H+), 1H-NMR (CDCl3, 400 MHz) δ 2.35 (s, 3H), 2.49-2.56 (m, 4H), 3.36-3.42 (m, 2H), 3.53-3.63 (m, 6H), 4.90 (bs, 1H), 6.68 (d, J=8.8 Hz, 1H), 6.77 (d, J=1.5 Hz, 1H), 7.58 (dd, J=8.8 Hz, 2.3 Hz, 1H), 7.63 (d, J=1.3 Hz, 1H), 8.31 (d, J=2.0 Hz, 1H).

reactant | 7-Iodo-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine | 704 mg | IC1=CC2=C(NCCN2)N=C1 | C7H8IN3
reactant | 1-methyl-4-[5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)pyridin-2-yl]piperazine | CN1CCN(CC1)C1=NC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C16H26BN3O2
product | 7-[6-(4-Methylpiperazin-1-yl)pyridin-3-yl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine | 20% yield | CN1CCN(CC1)C1=CC=C(C=N1)C1=CC2=C(NCCN2)N=C1 | C17H22N6
